US07951828B1
Step 2: Production of 2-amino-4-[5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazole-3-yl]benzoic acid amide
In a mixture of 10 mL of water, 2 mL of acetic acid and 0.52 g of reduced iron, a solution of 0.84 g of 4-[5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazole-3-yl]-2-nitro benzoic acid amide in 10 mL of ethyl acetate was added dropwise at 75° C. with stirring. After the completion of the addition dropwise, it was stirred at the same temperature further for 2.5 hours. After the completion of the reaction, insoluble material was removed by hot filtration, 20 ml of water was added in the filtrate, and the organic phase was collected, and the aqueous phase was extracted with ethyl acetate (10 ml×2). The combined organic phases were washed with 10 ml of saturated sodium hydrogen carbonate aqueous solution, and then dehydrated with and dried over saturated sodium chloride aqueous solution and then anhydrous sodium sulfate, and then the solvent was distilled off under reduced pressure to obtain 0.80 g of the crude aimed product as yellow crystal. The resulting product was used as such without purification for the next step.

reactant | acetic acid | 2 mL | C(C)(=O)O | C2H4O2
reactant | 4-[5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazole-3-yl]-2-nitro benzoic acid amide | 0.84 g | ClC=1C=C(C=C(C1)Cl)C1(CC(=NO1)C1=CC(=C(C(=O)N)C=C1)[N+](=O)[O-])C(F)(F)F | C17H10Cl2F3N3O4
solvent | water | 10 mL | O | H2O
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
product | 2-amino-4-[5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazole-3-yl]benzoic acid amide | 0.80 g | NC1=C(C(=O)N)C=CC(=C1)C1=NOC(C1)(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl | C17H12Cl2F3N3O2
